US04497817
To 30 ml of chloroform were added 1.35 g of 2-(m-acetoxyphenyl)imidazo[2,1-b]benzothiazole and 0.94 g of N-bromosuccinimide and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure and the residue was washed with ether and dried to provide 2-(m-acetoxyphenyl)-3-bromoimidazo[2,1-b]benzothiazole. The product was suspended in 50 ml of methanol and after adding thereto 4 ml of 0.84 normal methanol solution of potassium hydroxide, the mixture was stirred for 30 minutes at room temperature. To the reaction mixture was added acetic acid to acidify the mixture and then 50 ml of water was added to the mixture to form crystals, which were recovered by filtration and recrystallized from a mixture of methylcellosolve and water to provide 1.2 g of 3-bromo-2-(m-hydroxyphenyl)imidazo[2,1-b]benzothiazole.

reactant | 2-(m-acetoxyphenyl)imidazo[2,1-b]benzothiazole | 1.35 g | C(C)(=O)OC=1C=C(C=CC1)C=1N=C2SC3=C(N2C1)C=CC=C3 | C17H12N2O2S
reactant | N-bromosuccinimide | 0.94 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(m-acetoxyphenyl)-3-bromoimidazo[2,1-b]benzothiazole | C(C)(=O)OC=1C=C(C=CC1)C=1N=C2SC3=C(N2C1Br)C=CC=C3 | C17H11BrN2O2S
